US04946865
Sodium nitrite (1.33 g) was added to a solution of 3-chloro-4,5-dipropargyloxyaniline (4.47 g) in acetic acid (30 ml) and 35% hydrochloric acid (4 ml) at 0° C., followed by stirring at the same temperature for 1 hour. The resultant solution was poured into 35% hydrochloric acid (20 ml) containing copper chloride (2.35 g) at room temperature, and stirring was continued at 60° C. for 30 minutes. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with aqueous sodium carbonate solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography using toluene as an eluent to give 1,3-dichloro-4,5-dipropargyloxybenzene (3.60 g) as white crystals. m.p. 61°-63° C.

reactant | Sodium nitrite | 1.33 g | N(=O)[O-].[Na+]
reactant | 3-chloro-4,5-dipropargyloxyaniline | 4.47 g | ClC=1C=C(N)C=C(C1OCC#C)OCC#C | C12H10ClNO2
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | copper chloride | 2.35 g | [Cu](Cl)Cl
product | 1,3-dichloro-4,5-dipropargyloxybenzene | 3.60 g | ClC1=CC(=C(C(=C1)OCC#C)OCC#C)Cl | C12H8Cl2O2
